US05663162
5-(2-Hydroxyethyl)imidazo[5,1-b]thiazole
To a solution of 1.10 g (5.62 mmol) of methyl (imidazo-[5,1-b]thiazol-5-yl)acetate in 15 ml of ethanol was added 61 mg (2.8 mmol) of lithium borohydride with ice-cooling, and the mixture was stirred at room temperature for 30 minutes. To this was added 130 mg (5.6 mmol) of lithium borohydride. The mixture was stirred at room temperature for 3 hours, and allowed to stand overnight in a refrigerator. 20 ml of methanol and 2 ml of concentrated hydrochloric acid were added to the reaction solution with ice-cooling. The mixture was stirred, and then concentrated under reduced pressure. To this was added 30 ml of methanol, and the mixture was concentrated to dryness under reduced pressure. The residue was dissolved in ethyl acetate, and the solution was concentrated to approximately half the original volume under reduced pressure. The crystals precipitated were collected by filtration to give 640 mg of the title compound.

reactant | methyl (imidazo-[5,1-b]thiazol-5-yl)acetate | 5.62 mmol, 1.10 g | S1C=2N(C=C1)C(=NC2)CC(=O)OC | C8H8N2O2S
reactant | lithium borohydride | 2.8 mmol, 61 mg | [BH4-].[Li+]
reactant | lithium borohydride | 5.6 mmol, 130 mg | [BH4-].[Li+]
reactant | methanol | 20 ml | CO | CH4O
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-(2-Hydroxyethyl)imidazo[5,1-b]thiazole | 640 mg | OCCC1=NC=C2SC=CN21 | C7H8N2OS
